US06114391
Preparation of 2-(N-methyl-2-indanylamino)acetamide (CHF 3488)
2-(2-indanylamino)acetamide (0.016 moles, 3.00 g) is dissolved in methanol (60 ml), and potassium carbonate (0.016 moles, 2.18 g) is added under stirring. Methyl iodide (0.028 moles, 4.14 g) is dropped therein at r.t. in 15 minutes. The mixture is reacted for 4 hours at r.t., then evaporated under vacuum. The resulting solid is taken up into water (100 ml), the aqueous solution is extracted with ethyl acetate (3×150 ml). The organic solution is dried over sodium sulfate, then evaporated under vacuum to obtain an oil which is chromatographed under medium pressure through silica gel (eluent chloroform:methanol=90:10) Yield: 1.31 g (40%)--m.p.=122-123° C.

reactant | 2-(2-indanylamino)acetamide | 0.016 moles, 3.00 g | C1C(CC2=CC=CC=C12)NCC(=O)N | C11H14N2O
reactant | potassium carbonate | 0.016 moles, 2.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 0.028 moles, 4.14 g | CI | CH3I
solvent | methanol | 60 ml | CO | CH4O
product | 2-(N-methyl-2-indanylamino)acetamide | CN(CC(=O)N)C1CC2=CC=CC=C2C1 | C12H16N2O
